US09056874B2
4-Methyl-2-(methylthio)-5-nitrobenzonitrile
To a solution of 2-bromo-4-methyl-5-nitrobenzonitrile (3 g, 12.45 mmol) in DMF (124 mL), sodium thiomethoxide (1.31 g, 18.67 mmol) was added and the reaction heated to 60° C. for 1 h. The reaction was then cooled to room temperature, quenched with a sat. aq. solution of NaHCO3 and extracted with EtOAc. The organic extract was dried over MgSO4, filtered and concentrated. The resulting residue was purified using FCC eluting with heptanes:EtOAc 1:1 to give the title compound. MS (ESI−) m/z 207.3 (M−H).

reactant | 2-bromo-4-methyl-5-nitrobenzonitrile | 12.45 mmol, 3 g | BrC1=C(C#N)C=C(C(=C1)C)[N+](=O)[O-] | C8H5BrN2O2
reactant | sodium thiomethoxide | 18.67 mmol, 1.31 g | C[S-].[Na+]
solvent | DMF | 124 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-2-(methylthio)-5-nitrobenzonitrile | CC1=CC(=C(C#N)C=C1[N+](=O)[O-])SC | C9H8N2O2S
